US07291632B2
2,6-Difluoro-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-benzamide hydrochloride
Prepare according to procedure in Example 66 starting with N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34,200 mg, 0.907 mmol), 2,6-difluorobenzoyl chloride (125 μL, 0.998 mmol), and 1,4-dioxane (10 mL) to yield 289 mg (80%) of the title compound: mass spectrum (ion spray): m/z=361.3 (M+1); Analysis Calcd for C19H23N4OF2Cl.0.5H2O: C, 56.22; H, 5.96; N, 13.80. Found: C, 56.49; H, 5.80; N, 14.15. mp 308° C. (dec.).

reactant | N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.907 mmol, 34,200 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | 2,6-difluorobenzoyl chloride | 0.998 mmol, 125 μL | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2,6-Difluoro-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-benzamide hydrochloride | 289 mg, 80% | Cl.FC1=C(C(=O)NC2=NC(=CC=C2)N(C2CCN(CC2)C)C)C(=CC=C1)F | InChI=1S/C19H22F2N4O.ClH/c1-24-11-9-13(10-12-24)25(2)17-8-4-7-16(22-17)23-19(26)18-14(20)5-3-6-15(18)21;/h3-8,13H,9-12H2,1-2H3,(H,22,23,26);1H
